US07723330B2
Step B: Preparation of N-(3-fluoro-4-(1-(4-methoxybenzyl)-3-(4-(morpholine-4-carbonyl)phenyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
To a small round bottom flask was added N-(3-fluoro-4-(3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide (30 mg, 0.0425 mmol), 4-(morpholine-4-carbonyl)phenylboronic acid (20.0 mg, 0.0849 mmol), and Pd(PPh3)4 (2.45 mg, 0.00212 mmol) and the mixture was dissolved in 3:1 DME:aqueous 2N Na2CO3 (2 mL). The mixture was stirred at 70° C. until the reaction was determined to be complete by LC/MS (1-18 hours). The reaction mixture was then partitioned between ethyl acetate (15 mL) and water (30 mL). The organic layer washed with brine, dried over Na2SO4 and evaporated to afford crude product. Purified by silica gel column chromatography (Biotage 12M) eluting with 1-5% MeOH/CHCl3 to give the desired product. Yield: 40.2 mg, 81%. LRMS (APCI pos) m/e 770.1 (M+H).

reactant | N-(3-fluoro-4-(3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 0.0425 mmol, 30 mg | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(N=C2I)CC2=CC=C(C=C2)OC)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C31H21F2IN6O4
reactant | 4-(morpholine-4-carbonyl)phenylboronic acid | 0.0849 mmol, 20.0 mg | N1(CCOCC1)C(=O)C1=CC=C(C=C1)B(O)O | C11H14BNO4
reactant | Na2CO3 | 2N, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.00212 mmol, 2.45 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(3-fluoro-4-(1-(4-methoxybenzyl)-3-(4-(morpholine-4-carbonyl)phenyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(N=C2C2=CC=C(C=C2)C(=O)N2CCOCC2)CC2=CC=C(C=C2)OC)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C42H33F2N7O6
